US07932271B2
N-[5-Chloro-4-[(5-chloropyridin-2-ylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]methanesulfonamide
Under an argon atmosphere, a tetrahydrofuran solution (1M, 0.705 ml, 0.71 mmol) of sodium bis(trimethylsilyl)amide was added to a tetrahydrofuran (4 ml) solution of [5-chloro-4-[(5-chloropyridin-2-ylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]amine (92 mg, 0.21 mmol) at 0° C. The resulting mixture was stirred for 30 minutes. To the reaction mixture was added methanesulfonyl chloride (0.055 ml, 0.71 mmol). At the same temperature, the resulting mixture was stirred for 2 hours. The temperature of the reaction mixture was then raised to room temperature. To the reaction mixture was added a saturated aqueous solution of ammonium chloride. The product thus obtained was extracted with diethyl ether. The organic layer was dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel column chromatography. The fraction obtained from the dichloromethane:ethyl acetate=19:1 eluate was concentrated under reduced pressure. The residue thus obtained was washed with an ethanol/hexane mixed solvent and then, collected by filtration to give the title compound (27 mg, 0.053 mmol, 25%) as a white solid.

reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | [5-chloro-4-[(5-chloropyridin-2-ylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]amine | 0.21 mmol, 92 mg | ClC=1C(=CC(=NC1)N)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=NC=C(C=C1)Cl | C17H11Cl2F2N3O2S
reactant | methanesulfonyl chloride | 0.71 mmol, 0.055 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.71 mmol, 1M, 0.705 ml | O1CCCC1 | C4H8O
product | N-[5-Chloro-4-[(5-chloropyridin-2-ylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]methanesulfonamide | 0.053 mmol, 27 mg, 25% | ClC=1C(=CC(=NC1)NS(=O)(=O)C)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=NC=C(C=C1)Cl | C18H13Cl2F2N3O4S2
